US08222248B2
To a stirred solution of 2,4,6-trichlorobenzoic acid (451 mg, 2.0 mmol) in THF (15 mL) was added BH3 (3 mL of a 1M solution in THF). After the addition, the solution was refluxed overnight. The reaction was quenched with water and the aqueous layer was extracted with EtOAc. The organic layer was washed with water, brine, dried with MgSO4, and filtered. The solvent was removed under reduced pressure to give (2,4,6-trichlorophenyl)-methanol as a white solid.

reactant | 2,4,6-trichlorobenzoic acid | 2.0 mmol, 451 mg | ClC1=C(C(=O)O)C(=CC(=C1)Cl)Cl | C7H3Cl3O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (2,4,6-trichlorophenyl)-methanol | ClC1=C(C(=CC(=C1)Cl)Cl)CO | C7H5Cl3O
